US09086390B2
25 g of dabigatran etexilate mesylate were suspended in 180 mL of deionized water. 1.32 g of methanesulfonic acid were added. The reaction mixture was heated to 55° C. and stirred at this temperature for 7 days. The resulting mixture was filtered, and the solid was dried under vacuum. The solid was purified by column chromatography, eluting with dichloromethane:methanol (10:1 v/v) mixture. After solvent evaporation of the selected fractions containing the desired compound, 5.9 g of 3-{[(2-{[(4-{[({hexyloxy}carbonyl)amino]carbonyl}phenyl)-amino]methyl}-1-methyl-1H-benzimidazol-5-yl)carbonyl](pyridin-2-yl)amino}propanoic acid were obtained.

reactant | dabigatran etexilate mesylate | 25 g | CCCCCCOC(=O)/N=C(/C=1C=CC(=CC1)NCC2=NC=3C=C(C=CC3N2C)C(=O)N(CCC(=O)OCC)C=4C=CC=CN4)\N.CS(=O)(=O)O
reactant | methanesulfonic acid | 1.32 g | CS(=O)(=O)O | CH4O3S
solvent | water | 180 mL | O | H2O
product | 3-{[(2-{[(4-{[({hexyloxy}carbonyl)amino]carbonyl}phenyl)-amino]methyl}-1-methyl-1H-benzimidazol-5-yl)carbonyl](pyridin-2-yl)amino}propanoic acid | 5.9 g | C(CCCCC)OC(=O)NC(=O)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)C(=O)N(CCC(=O)O)C2=NC=CC=C2 | C32H36N6O6
